US04327211
Into a 5-liter three-necked flask provided with a thermometer, were charged 362 mg of 7-amino-3-(benzimidazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid, 900 ml of acetone, and 1 liter of water to form a solution. After adding a solution of 290 mg of 2-methyl-1,3,4-thiadiazol-5-ylthio ester of 1H-tetrazoleacetic acid in 100 ml of acetone, the solution was heated to 60° C., further admixed with 2 ml of 0.5 N aqueous hydrochloric acid, and the reaction was allowed to proceed for 4 hours. On analysis of the reaction solution by high speed liquid chromatography, the conversion was found to be 66%. After cooling, pH was decreased with 1 N hydrochloric acid, and the reaction solution was subjected to separation and purification with a synthetic adsorbent column in a customary way to obtain 273.6 mg of 7-(1H-tetrazol-1-ylacetamido)-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid as a white powder (93% purity).

reactant | 7-amino-3-(benzimidazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 362 mg | NC1[C@@H]2N(C(=C(CS2)CSC=2NC3=C(N2)C=CC=C3)C(=O)O)C1=O | C15H14N4O3S2
reactant | water | 1 liter | O | H2O
reactant | 1H-tetrazoleacetic acid | N1N=NN=C1CC(=O)O | C3H4N4O2
reactant | hydrochloric acid | 0.5 N, 2 ml | Cl | ClH
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | acetone | 900 ml | CC(=O)C | C3H6O
product | 7-(1H-tetrazol-1-ylacetamido)-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 273.6 mg | N1(N=NN=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C14H14N8O4S3
